US06891070B2
c) 1-{4-[2-(2-Benzyloxyethoxy)ethoxy]phenyl}-1,2-diphenyl-butane-1,4-diol
Lithium aluminum hydride (1.08 g, 28.6 mmol) is added into dry tetrahydrofuran (60 ml) under nitrogen atmosphere. Cinnamaldehyde (6.65 g, 50 mmol) in dry tetrahydrofuran (16 ml) is added at 24-28° C. The reaction mixture is stirred at ambient temperature for 1 h. {4-[2-(2-Benzyloxyethoxy)ethoxy]phenyl}-phenyl-methanone (14.0 g, 37 mmol) in dry tetrahydrofuran (16 ml) is added at 50-55° C. The reaction mixture is stirred at 60° C. for 3 h. Most of tetrahydrofuran is evaporated. Toluene (70 ml) and 2 M aqueous hydrogen chloride (50 ml) are added. The mixture is stirred for 5 min and the aqueous layer is separated and extracted with toluene (30 ml). The toluene layers are combined and washed with 2M HCl and water, dried and evaporated. The product is crystallized from isopropanol as a mixture of stereoisomers (8.8 g, 50%).

reactant | Lithium aluminum hydride | 28.6 mmol, 1.08 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Cinnamaldehyde | 50 mmol, 6.65 g | C(C=CC1=CC=CC=C1)=O | C9H8O
reactant | {4-[2-(2-Benzyloxyethoxy)ethoxy]phenyl}-phenyl-methanone | 37 mmol, 14.0 g | C(C1=CC=CC=C1)OCCOCCOC1=CC=C(C=C1)C(=O)C1=CC=CC=C1 | C24H24O4
solvent | tetrahydrofuran | 16 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 16 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 1-{4-[2-(2-Benzyloxyethoxy)ethoxy]phenyl}-1,2-diphenyl-butane-1,4-diol | C(C1=CC=CC=C1)OCCOCCOC1=CC=C(C=C1)C(C(CCO)C1=CC=CC=C1)(O)C1=CC=CC=C1 | C33H36O5
